datasets/RMG-dataset.csv
rxn,Ea
[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:17])[H:18])[H:16])=[C:5]([C:6]([H:19])([H:20])[H:21])[c:7]1[c:8]([H:22])[c:9]([H:23])[c:10]([H:24])[c:11]([H:25])[c:12]1[H:26])[H:15])([H:13])[H:14].[C:27](=[C:28]([C:29]([C:30](=[C:31]([H:37])[H:38])[H:36])[H:35])[H:34])([H:32])[H:33]>>[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:17])[H:18])[H:16])([C:5]([C:6]([H:19])([H:20])[H:21])[c:7]1[c:8]([H:22])[c:9]([H:23])[c:10]([H:24])[c:11]([H:25])[c:12]1[H:26])[C:29]([C:28](=[C:27]([H:32])[H:33])[H:34])([C:30](=[C:31]([H:37])[H:38])[H:36])[H:35])[H:15])([H:13])[H:14],73.22
[C:0]([C:1]([C:2]([H:10])([H:11])[H:12])([C:3]([H:13])([H:14])[H:15])[C:4]([O:5][O:6][H:18])([H:16])[H:17])([H:7])([H:8])[H:9]>>[C:0]([C:1]([C:2]([H:10])([H:11])[H:12])([C:3]([H:13])([H:14])[H:15])[C:4]([O:5])([H:16])[H:17])([H:7])([H:8])[H:9].[O:6][H:18],188.74024
[C:0](=[C:1]([C:2](=[C:3]([H:7])[H:8])[H:6])[H:5])[H:4].[O:9][O:10][H:11]>>[C:0](=[C:1]([C:2](=[C:3]([H:7])[H:8])[H:6])[H:5])([H:4])[H:11].[O:9][O:10],0.0
[C:0](=[C:1]([C:2]([H:10])([H:11])[H:12])[C:3]([C:4]([C:5](=[C:6]([H:17])[H:18])[C:7]([H:19])([H:20])[H:21])([H:15])[H:16])([H:13])[H:14])([H:8])[H:9].[C:22]([H:23])([H:24])[H:25]>>[C:0](=[C:1]([C:2]([H:11])[H:12])[C:3]([C:4]([C:5](=[C:6]([H:17])[H:18])[C:7]([H:19])([H:20])[H:21])([H:15])[H:16])([H:13])[H:14])([H:8])[H:9].[H:10][C:22]([H:23])([H:24])[H:25],23.7442
[C:0]([C:1]([C:2]([H:11])([H:12])[H:13])([C:3]([C:4]([H:15])([H:16])[H:17])([O:5][O:6])[H:14])[H:10])([H:7])([H:8])[H:9]>>[C:0]([C:1]([C:2]([H:11])([H:12])[H:13])([C:3](=[C:4]([H:16])[H:17])[H:14])[H:10])([H:7])([H:8])[H:9].[O:5][O:6][H:15],124.6832
[C:0]([c:1]1[c:2]([H:18])[c:3]([H:19])[c:4]2[c:5]([c:6]([H:20])[c:7]([H:21])[c:8]3[c:9]([H:22])[c:10]([H:23])[c:11]([H:24])[c:12]([H:25])[c:13]23)[c:14]1[H:26])([H:15])([H:16])[H:17].[H:27]>>[C:0]([c:1]1[c:2]([H:18])[c:3]([H:19])[c:4]2[c:5]([c:6]([H:20])[c:7]([H:21])[c:8]3[c:9]([H:22])[c:10]([H:23])[c:11]([H:24])[c:12]([H:25])[c:13]23)[c:14]1[H:26])([H:16])[H:17].[H:15][H:27],34.9208
[C:0](=[C:1]=[C:2]([C:3]([H:7])([H:8])[H:9])[H:6])([H:4])[H:5].[C:10](=[C:11]([C:12]([C:13]([H:18])([H:19])[H:20])[H:17])[H:16])([H:14])[H:15]>>[C:0](=[C:1][C:2]([C:3]([H:7])([H:8])[H:9])([H:6])[C:12]([C:11](=[C:10]([H:14])[H:15])[H:16])([C:13]([H:18])([H:19])[H:20])[H:17])([H:4])[H:5],57.4463
[C:0]([C:1]([C:2]([C:3]([C:4]([H:15])([H:16])[H:17])([O:5][O:6][H:18])[H:14])([H:12])[H:13])([O:7][O:8][H:19])[H:11])([H:9])[H:10]>>[C:0]1([H:9])([H:10])[C:1]([C:2]([C:3]([C:4]([H:15])([H:16])[H:17])([O:5][O:6][H:18])[H:14])([H:12])[H:13])([H:11])[O:7]1.[O:8][H:19],44.7688
[C:0](=[C:1]=[C:2]([C:3]([H:12])([H:13])[H:14])[c:4]1[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]1[H:19])([H:10])[H:11].[C:20](=[C:21]([C:22]([C:23]([H:28])([H:29])[H:30])[H:27])[H:26])([H:24])[H:25]>>[C:0](=[C:1][C:2]([C:3]([H:12])([H:13])[H:14])([c:4]1[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]1[H:19])[C:22]([C:21](=[C:20]([H:24])[H:25])[H:26])([C:23]([H:28])([H:29])[H:30])[H:27])([H:10])[H:11],68.4084
[C:0]([C:1]([C:2]([H:14])([H:15])[H:16])=[C:3]([C:4]([H:17])([H:18])[H:19])[c:5]1[c:6]([H:20])[c:7]([H:21])[c:8]([H:22])[c:9]([H:23])[c:10]1[H:24])([H:11])([H:12])[H:13].[C:25]([C:26]([C:27]([H:37])([H:38])[H:39])[c:28]1[c:29]([H:40])[c:30]([H:41])[c:31]([H:42])[c:32]([H:43])[c:33]1[H:44])([H:34])([H:35])[H:36]>>[C:0]([C:1]([C:2]([H:14])([H:15])[H:16])([C:3]([C:4]([H:17])([H:18])[H:19])[c:5]1[c:6]([H:20])[c:7]([H:21])[c:8]([H:22])[c:9]([H:23])[c:10]1[H:24])[C:26]([C:25]([H:34])([H:35])[H:36])([C:27]([H:37])([H:38])[H:39])[c:28]1[c:29]([H:40])[c:30]([H:41])[c:31]([H:42])[c:32]([H:43])[c:33]1[H:44])([H:11])([H:12])[H:13],38.7438
[H:0][H:1].[I:2]>>[H:0].[H:1][I:2],128.2
[C:0]1([H:7])([H:8])[C:1]([H:9])([H:10])[C:2]2([H:11])[C:3]([H:12])([H:13])[C:4]([H:14])([H:15])[C:5]1([H:16])[C:6]2([H:17])[H:18].[C:19]([C:20]([H:23])([H:24])[H:25])([H:21])[H:22]>>[C:0]1([H:8])[C:1]([H:9])([H:10])[C:2]2([H:11])[C:3]([H:12])([H:13])[C:4]([H:14])([H:15])[C:5]1([H:16])[C:6]2([H:17])[H:18].[H:7][C:19]([C:20]([H:23])([H:24])[H:25])([H:21])[H:22],38.451
[C:0]([C:1]([C:2]([H:13])([H:14])[H:15])[C:3]([C:4]([C:5]([C:6](=[C:7]([C:8]([H:23])([H:24])[H:25])[C:9]([H:26])([H:27])[H:28])[H:22])([H:20])[H:21])([H:18])[H:19])([H:16])[H:17])([H:10])([H:11])[H:12]>>[C:0]([C:1]1([C:2]([H:13])([H:14])[H:15])[C:3]([H:16])([H:17])[C:4]([H:18])([H:19])[C:5]([H:20])([H:21])[C:6]([H:22])[C:7]1([C:8]([H:23])([H:24])[H:25])[C:9]([H:26])([H:27])[H:28])([H:10])([H:11])[H:12],49.7896
[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])=[C:4]([C:5]([H:13])([H:14])[H:15])[H:12])[H:8])([H:6])[H:7].[C:16](=[C:17]([C:18]([C:19](=[C:20]([H:26])[H:27])[H:25])[H:24])[H:23])([H:21])[H:22]>>[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([C:4]([C:5]([H:13])([H:14])[H:15])[H:12])[C:18]([C:17](=[C:16]([H:21])[H:22])[H:23])([C:19](=[C:20]([H:26])[H:27])[H:25])[H:24])[H:8])([H:6])[H:7],78.0316
